US04235776
A reaction mixture was prepared from 15.5 g. of 4-acetamidocyclohexanone [prepared by the procedure of Fraser and Swingle, Can. J. Chem., 48, 2065 (1970)], 80 g. of the dimethylacetal of dimethylformamide, 1.5 ml. of triethylamine and 500 ml. of benzene. The benzene was distilled therefrom over a 1.5 hour period until the volume was reduced to about 1/2 of the original volume. An additional 250 ml. of benzene were added. The reaction mixture was heated just below the boiling point of benzene for about 2 hours and was then distilled again until the volume was about one-half of that originally present (250 ml.) The above process was repeated once more except that the volume was reduced to one-third of the original volume (167 ml.). The reaction mixture was then cooled and filtered. The filter cake consisted of dl-4-acetamido-2-dimethylaminomethylenecyclohexanone formed in the above reaction; weight=6.45 g. Evaporation of the filtrate to dryness yielded a residue, chromatography of a chloroform solution of which over 200 g. of Florisil using chloroform containing increasing amounts of methanol (0-5%) as an eluant, yielded more dl-4-acetamido-2-dimethylaminomethylenecyclohexanone; M.P.=132°-133° C. (from benzene); yield=5.55 g.; total yield=12 g.

reactant | 4-acetamidocyclohexanone | C(C)(=O)NC1CCC(CC1)=O | C8H13NO2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | Florisil | [O-][Si](=O)[O-].[Mg+2]
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-acetamido-2-dimethylaminomethylenecyclohexanone | C(C)(=O)NC1CC(C(CC1)=O)=CN(C)C | C11H18N2O2
